US09403798B2
1-[(5-Bromothiophen-2-yl)methyl]-4-(methylthio)-1,3,5-triazin-2(1H)-one
Methyl N-({[(5-bromothiophen-2-yl)methyl]amino}carbonyl)-carbamimidothioate (700 mg, 2.27 mmol) synthesized in Reference Synthesis Example 295 and triethyl orthoformate were used to obtain the title compound (547 mg, yield 76%) by synthesis in a similar manner to Reference Synthesis Example 292.

reactant | Methyl N-({[(5-bromothiophen-2-yl)methyl]amino}carbonyl)-carbamimidothioate | 2.27 mmol, 700 mg | BrC1=CC=C(S1)CNC(=O)NC(=N)SC | C8H10BrN3OS2
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
product | 1-[(5-Bromothiophen-2-yl)methyl]-4-(methylthio)-1,3,5-triazin-2(1H)-one | 547 mg, yield 76% | BrC1=CC=C(S1)CN1C(N=C(N=C1)SC)=O | C9H8BrN3OS2
